US06951875B2
b) 6-[2-(3-Trifluoromethyl-phenyl)-vinyl]-pyridine-2-carbonitrile
Following the general method described in example 2b, 2-[2-(3-trifluoromethyl-phenyl)-vinyl]-pyridine 1-oxide was reacted first with dimethylsulfate and then with NaCN. After extraction and chromatography (SiO2 with CH2Cl2/MeOH=97/3) the title compound was obtained as a yellow oil and directly used in the next step.

reactant | 2-[2-(3-trifluoromethyl-phenyl)-vinyl]-pyridine 1-oxide | FC(C=1C=C(C=CC1)C=CC1=[N+](C=CC=C1)[O-])(F)F | C14H10F3NO
reactant | dimethylsulfate | COS(=O)(=O)OC | C2H6O4S
reactant | NaCN | [C-]#N.[Na+]
product | 6-[2-(3-Trifluoromethyl-phenyl)-vinyl]-pyridine-2-carbonitrile | FC(C=1C=C(C=CC1)C=CC1=CC=CC(=N1)C#N)(F)F | C15H9F3N2
